US08212045B2
(S)-N-(5-(2-methoxyethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.9 g, 3.68 mmol) was dissolved in EtOH (50 mL) and 6M HCl (3 mL) added and heated to 60° C. for 1.5 hours. The reaction was cooled to ambient temperature and partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate, extracted with CH2Cl2, dried, filtered and concentrated. The residue was purified over silica gel (0 to 10% methanol in EtOAc) to afford (S)-1-(5-(5-(2-methoxyethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (1.13 g, 2.39 mmol, 65.0% yield) as a white solid after HCl salt formation. Mass Spectrum (apci) m/z=436.1 (M+H—HCl).

reactant | (S)-N-(5-(2-methoxyethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 3.68 mmol, 1.9 g | COCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C24H29N5O4S2
reactant | HCl | 6M, 3 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | (S)-1-(5-(5-(2-methoxyethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 2.39 mmol, 1.13 g, 65.0% yield | Cl.COCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H](CO)O)OC=1C(=NC=CC1)C | InChI=1S/C18H21N5O4S2.ClH/c1-11-14(4-3-5-19-11)27-15-8-12(28-7-6-26-2)9-20-17(15)22-18-21-16(23-29-18)13(25)10-24;/h3-5,8-9,13,24-25H,6-7,10H2,1-2H3,(H,20,21,22,23);1H/t13-;/m1./s1
